US04713383
A mixture of 2-(2-pyrrolyl)-5-thiono-5,6-dihydro[1,2,4]triazolo[1,5-c]quinazoline (4.28 g), prepared from 5-chloro-2-isothiocyanatobenzonitrile and 2-pyrrolecarbohydrazide as described in Example 39, is placed in a stainless steel pressure vessel with 40% aqueous methylamine saturated at 0° with methylamine gas (225 ml) and heated 6 hours at an outside temperature of 150° C. The reaction mixture is cooled to room temperature and the solid collected, washed with water and air dried. Recrystallization from aqueous methanol, then water affords pure 5-methylimino-5,6-dihydro-2-(2-pyrrolyl)-[1,2,4]triazolo-[1,5-c]quinazoline, mp 220°-221°.

reactant | 2-(2-pyrrolyl)-5-thiono-5,6-dihydro[1,2,4]triazolo[1,5-c]quinazoline | 4.28 g | N1C(=CC=C1)C1=NN2C(NC=3C=CC=CC3C2=N1)=S | C13H9N5S
reactant | 5-chloro-2-isothiocyanatobenzonitrile | ClC=1C=CC(=C(C#N)C1)N=C=S | C8H3ClN2S
reactant | 2-pyrrolecarbohydrazide | N1C(=CC=C1)C(=O)NN | C5H7N3O
reactant | methylamine | CN | CH5N
reactant | methylamine | 225 ml | CN | CH5N
product | 5-methylimino-5,6-dihydro-2-(2-pyrrolyl)-[1,2,4]triazolo-[1,5-c]quinazoline | CN=C1NC=2C=CC=CC2C=2N1N=C(N2)C=2NC=CC2 | C14H12N6
